US09162987B2
4-Iodo-6-(4-ethoxyphenyl)pyrimidine (ACT-MIF-033)
The compound was prepared according to Example 1 using 3-fluoro-4-ethoxyphenylboronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 3-fluoro-4-ethoxyphenylboronic acid | FC=1C=C(C=CC1OCC)B(O)O | C8H10BFO3
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(4-ethoxyphenyl)pyrimidine | IC1=NC=NC(=C1)C1=CC=C(C=C1)OCC | C12H11IN2O
